US06071903
N-(4-Methoxybenzenesulfonyl)-L-serine, t-butyl ester (3-hydroxy-2-(4-methoxybenzenesulfonylamino)propionic acid, tert-butyl ester)
To a solution of 12.18 g (0.0756 mol) of L-serine, t-butyl ester, 26.52 ml of triethylamine in 160 ml of CH2Cl2 (cooled in an ice bath) was added, in small portions, 16.1 g (0.0771 mol) of 4-methoxybenzene-sulfonyl chloride. The mixture was stirred at 0° C. for 0.5 hours and at room temperature overnight. The mixture was washed with H2O, 2N citric acid, brine and dried with Na2SO4. The solvent was removed under vacuum to give 25.34 g of solid which was triturated with hexane. The solid was recrystallized from 120 ml of toluene to give 12.18 g (48.7%) of product as a white solid. The filtrate was concentrated and the residue chromatographed on silica gel with hexane-ethyl acetate (7:3) as eluent to give 5.71 g (22.8%) of white solid. m.p. 70-75° C. Anal. for C14H21NO6S: Calc'd: C. 50.7; H,6.4; N,4.2; Found: C, 50.4; H,6.3; N,4.4.

reactant | L-serine, t-butyl ester | 0.0756 mol, 12.18 g | N[C@@H](CO)C(=O)OC(C)(C)C | C7H15NO3
reactant | triethylamine | 26.52 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzene-sulfonyl chloride | 0.0771 mol, 16.1 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | CH2Cl2 | 160 ml | C(Cl)Cl | CH2Cl2
product | N-(4-Methoxybenzenesulfonyl)-L-serine, t-butyl ester | 25.34 g | COC1=CC=C(C=C1)S(=O)(=O)N[C@@H](CO)C(=O)OC(C)(C)C | C14H21NO6S
